US07320994B2
{5-Amino-3-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-pyridazin-4-yl}-(2-chloro-phenyl)-methanone
Combine 4-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-3-(2-chloro-phenyl)-isoxazolo[3,4-d]pyridazine (79 mg, 0.1314 mmol), acetonitrile (2.5 mL), water (131 μL), and molybdenum hexacarbonyl (17.4 mg, 0.066 mmol), and heat to 73° C. After 4 hours, cool to RT. Pour the mixture through a plug of Celite® (1 cm) and silica gel (2 cm). Concentrate the dark liquid to 1.5 mL and apply to a 2 mm chromatotron plate with CH2Cl2 and EtOAc and elute with a EtOAc/hexanes gradient to provide 70 mg of a pink solid. Exact Mass 602.1: mass spectrum (IS): m/z=603.0 (M+1), 601.0 (M−1). 1H NMR (250 MHz, CDCl3) 8.62 (s, 1H), 7.75 (s, 1H), 7.45-7.32 (m, 3H), 7.28-7.10 (m, 3H), 7.00-6.80 (m, 3H), 6.10 (s, 2H).

reactant | 4-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-3-(2-chloro-phenyl)-isoxazolo[3,4-d]pyridazine | 0.1314 mmol, 79 mg | FC(C=1C=C(CN2N=NC(=C2C2=CC=CC=C2)C=2C=3C(C=NN2)=NOC3C3=C(C=CC=C3)Cl)C=C(C1)C(F)(F)F)(F)F | C28H15ClF6N6O
reactant | acetonitrile | 2.5 mL | C(C)#N | C2H3N
catalyst | molybdenum hexacarbonyl | 0.066 mmol, 17.4 mg | [C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Mo]
solvent | water | 131 μL | O | H2O
product | {5-Amino-3-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-pyridazin-4-yl}-(2-chloro-phenyl)-methanone | 70 mg | NC=1C(=C(N=NC1)C=1N=NN(C1C1=CC=CC=C1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(=O)C1=C(C=CC=C1)Cl | C28H17ClF6N6O
